US05866568
A solution of 2-(4-iodophenyl)-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (1.5 g), methyl acrylate (0.25 ml), palladium acetate (58 mg) and triethylamine (1.79 ml) in dimethyl formamide (45 ml) and water (5 ml) was heated at 100° C. for 1 hour. Volatile material was removed by evaporation and water (50 ml) was added to the residue. The mixture was acidfied to pH 3 with 1M hydrochloric acid and extracted with ethyl acetate (2×50 ml). The extracts were washed with water (50 ml) and saturated sodium chloride solution (50 ml), treated with charcoal and dried (MgSO4). The solvent was removed by evaporation and the residue was triturated with ether/hexane (1:1 v/v) to give N-isobutoxycarbonyl-2-[4-(2-[methoxycarbonyl]vinyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.99 g), m.p. 149°-151° C.; microanalysis found: C, 57.7; H, 5.2; N, 10.6%; C26H28N4O7S requires: C, 57.8; H, 5.2; N, 10.4%.

reactant | 2-(4-iodophenyl)-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 1.5 g | IC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C22H23IN4O5S
reactant | methyl acrylate | 0.25 ml | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 1.79 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 45 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
catalyst | palladium acetate | 58 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-isobutoxycarbonyl-2-[4-(2-[methoxycarbonyl]vinyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.99 g | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C=CC(=O)OC)C1=NC=C(N=C1OC)C | C26H28N4O7S
